US07732626B2
{2′,3′,5′,6′-tetramethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol
To a solution of 3′-(hydroxymethyl)-2,3,5,6-tetramethylbiphenyl-4-ol (0.616 g, 2.40 mmol) and 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate (1.05 g, 3.60 mol) in N,N-dimethylformamide (5 mL) was added potassium carbonate (0.597 g, 4.32 mmol), and the mixture was stirred at 90° C. for 12 hr under nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with 1 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=40:60-80:20), and the obtained crystals were recrystallized from heptane-ethyl acetate to give the title compound (0.577 g, yield 85%) as colorless crystals.

reactant | 3′-(hydroxymethyl)-2,3,5,6-tetramethylbiphenyl-4-ol | 2.40 mmol, 0.616 g | OCC=1C=C(C=CC1)C1=C(C(=C(C(=C1C)C)O)C)C | C17H20O2
reactant | 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate | 3.60 mol, 1.05 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCS(=O)(=O)C | C11H16O5S2
reactant | potassium carbonate | 4.32 mmol, 0.597 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | {2′,3′,5′,6′-tetramethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol | 0.577 g, yield 85% | CC1=C(C(=C(C(=C1C)OCCCS(=O)(=O)C)C)C)C1=CC(=CC=C1)CO | C21H28O4S
